US06465472B1
6,7-Methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline
To a suspension of 3,4-(methylenedioxy)-2-amino-4,5-(methylenedioxy)benzophenone (100 mg, 0.32 mmol) in formamide (1.0 mL) was added formic acid (0.5 mL). The resulting mixture was refluxed under argon for 45 min, cooled to rt, poured into ice water (10 mL), and stirred for 30 min. The resulting precipitate was collected by filtration and the solid was dissolved in ethyl acetate. The solution was washed with water and brine, dried over anhydrous MgSO4 and the solvent was removed in vacuo. The crude product was purified by chromatography on silica gel. Elution with hexane:acetone (70:30) gave the title compound (52 mg); mp 180-185° C. 1H NMR (DMSO-d6) 9.05 (s, 1H), 7.40 (s, 1H), 7.33 (s, 1H), 7.28 (s, 1H), 7.23 (d, J=7.98, 1H), 7.10 (d, J=7.98, 1H), 6.25 (s, 2H), 6.10 (s, 2H). Anal. calcd. for C16H10N2O4: C, 65.31, H, 3.43, N, 9.52. Found: C, 65.07, H, 3.59, N, 9.30.

reactant | 3,4-(methylenedioxy)-2-amino-4,5-(methylenedioxy)benzophenone | 0.32 mmol, 100 mg | C1OC2C(=C(C(=O)C3=CC=CC=C3)C=C3C2(OCO3)O1)N | C15H13NO5
reactant | formic acid | 0.5 mL | C(=O)O | CH2O2
reactant | formamide | 1.0 mL | C(=O)N | CH3NO
product | 6,7-Methylenedioxy-4-(3,4-methylenedioxyphenyl)quinazoline | 52 mg | C1OC=2C=C3C(=NC=NC3=CC2O1)C1=CC2=C(C=C1)OCO2 | C16H10N2O4
